US07071184B2
h. 5-Methoxy-benzofuran-2-carboxylic acid {(S)-1-[3-hydroxy-6-methyl-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-3-methyl-butyl}-amide
To {(S)-1-[3-hydroxy-6-methyl-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-3-methyl-butyl}-carbamic acid tert-butyl ester (0.13 g, 0.28 mmol) was added HCl/dioxane (4M, 2.8 ml, 11.2 mmol). The mixture was stirred at RT for 2 h before solvents and excess amount of HCl was removed on rotavapor. The result white solid was dissolved in 5 ml DMF. To the solution was added 5-methoxy-benzofuran-2-carboxylic acid (63.4 mg, 0.33 mmol), HBTU (125 g, 0.33 mmol) and NMM (0.14 g, 1.34 mmol). The mixture was stirred at RT overnight. DMF was then removed and the residue was re-dissolved in EtOAc (50 ml), washed with 10% NaHCO3 (50 ml×2) and brine (50 ml). The combined organics were concentrated by rotary evaporation. Purification by column chromatograghy gave the title compound (110 mg in 69% yield, 2 steps): MS (M+H+):573.4; 1H-NMR (400 Hz, CDCl3): d=8.74–8.66(dd, 1H), 7.96–6.97(m, 9H), 4.72(m, 1H), 4.18–3.21(m, 7H), 2.81(m, 1H), 2.04–1.74(m, 6H), 1.25(m, 2H), 0.99–0.87(m, 9H).

reactant | {(S)-1-[3-hydroxy-6-methyl-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-3-methyl-butyl}-carbamic acid tert-butyl ester | 0.28 mmol, 0.13 g | C(C)(C)(C)OC(N[C@@H](CC(C)C)C(NC1C(CN(CC(C1)C)S(=O)(=O)C1=NC=CC=C1)O)=O)=O | C23H38N4O6S
reactant | HCl dioxane | 11.2 mmol, 4M, 2.8 ml | Cl.O1CCOCC1
reactant | HCl | Cl | ClH
reactant | 5-methoxy-benzofuran-2-carboxylic acid | 0.33 mmol, 63.4 mg | COC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C10H8O4
reactant | HBTU | 0.33 mmol, 125 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NMM | 1.34 mmol, 0.14 g | CN1CCOCC1 | C5H11NO
product | 5-Methoxy-benzofuran-2-carboxylic acid {(S)-1-[3-hydroxy-6-methyl-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-3-methyl-butyl}-amide | 110 mg, 69% yield | OC1CN(CC(CC1NC(=O)[C@H](CC(C)C)NC(=O)C=1OC2=C(C1)C=C(C=C2)OC)C)S(=O)(=O)C2=NC=CC=C2 | C28H36N4O7S
